Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with a history of prothrombin gene mutation presents 
with pleuritic chest pain. 

Pt reports that she began to have intermittent pleuritic chest 
pain in her left shoulder and anterior left chest since ___. 
These have become more frequent and more severe until last night 
when he woke up from sleeping around 2am and the pain became 
persistently severe. She went to ___ urgent care was 
found to have an elevated d-dimer and bilateral small PEs and 
lingular infarct on CT chest.

She has no history of clotting, however after a clot was found 
in her umbilical vein at her first pregnancy resulting in IUFD. 
A hypercoagulable workup showed she was heterozygous for the 
prothrombin gene mutation. At that point she was seen by 
hematology who recommended she be anticoagulated for 6w after 
each following pregnancy. She did receive lovenox after her two 
following pregnancies without further issues. 

In the ED, initial vitals: T 98.8 HR 100 BP 144/83 RR 19 O2 Sat 
98% on RA
  
- Exam notable for:  
General- NAD
HEENT- PERRL, EOMI, normal oropharynx
Lungs- Non-labored breathing, CTAB, mild pleuritic pain
CV- Tachy, no murmurs, normal S1, S2, no S3/S4
Abd- Soft, nontender, nondistended, no guarding, rebound or 
masses
Msk- No spine tenderness
Neuro-A&O x3, CN ___ intact, normal strength and sensation in 
all extremities, normal coordination and gait.
Ext- No edema, cyanosis, or clubbing, or tenderness to palpation 
along her popliteal or femoral veins

- Labs notable for: Trop < .01, D-Dimer 660, BNP 31, UCG 
negative  

- Imaging notable for:  
1. Bilateral small pulmonary emboli to the lingula, anterior 
right upper lobe and posterior basal right lower lobe. 
Ground-glass opacity within the peripheral lingula likely 
reflects evolving pulmonary infarct.

- Patient was given: Heparin gtt
 
- Consults: None
  
- Vitals prior to transfer: T 98.1 HR 95, BP 116/65, RR 18, 100% 
on RA

On arrival to the floor she notes her chest pain is improved 
though still present with deep inhalation. Additionally denies 
dyspnea. 

She has no recent history of leg pain or swelling. She does 
states she flew back from ___ about a month ago, and she 
spent long periods of time seated at work.

 
Past Medical History:
Corneal Erosions
Prothormbin gene mutation
Retinal detachment
Colonic polyps 
Vit D deficiency 

 
Social History:
___
Family History:
Mother w/ hypothyroidism, OA, HTN. Father with HTN, HLD, CAD, 
Myasthenia ___, sarcoid.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
24 HR Data (last updated ___ @ ___
    Temp: 98.3 (Tm 98.3), BP: 128/73, HR: 88, RR: 18, O2 sat:
98%, O2 delivery: Ra  
GENERAL: Pleasant, lying in bed comfortably  
HEENT: NCAT PEERLA 
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema    
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1231)
    Temp: 98.8 (Tm 98.8), BP: 118/63 (118-128/63-80), HR: 92
(80-92), RR: 18 (___), O2 sat: 94% (94-98), O2 delivery: Ra  
GENERAL: Pleasant, lying in bed comfortably  
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema    
NEURO: Alert, oriented, 
SKIN: No significant rashes  
 
Pertinent Results:
ADMISSION LABS:
___ 01:18PM BLOOD ___ PTT-27.4 ___
___ 10:40AM BLOOD D-Dimer-660*
___ 10:40AM BLOOD Glucose-113* UreaN-11 Creat-0.7 Na-142 
K-4.0 Cl-99 HCO3-27 AnGap-16
___ 10:40AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 10:40AM BLOOD cTropnT-<0.01
___ 04:05PM BLOOD CK-MB-<1 cTropnT-<0.01 proBNP-31
___ 04:55AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.0

IMAGING:
CTA CHEST ___
1. Bilateral small pulmonary emboli to the lingula, anterior 
right upper lobe and posterior basal right lower lobe.  
Ground-glass opacity within the peripheral lingula likely 
reflects evolving pulmonary infarct. 

LOWER EXTREMITY US ___
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

DISCHARGE LABS:
___ 04:55AM BLOOD Glucose-94 UreaN-8 Creat-0.6 Na-139 K-4.1 
Cl-100 HCO3-26 AnGap-___ yo F with a history of prothrombin gene mutation presented 
with pleuritic chest pain and was found to have bilateral PEs. 
She was started on heparin gtt and transitioned to rivaroxaban 
with plan to continue for at least three months pending follow 
up with hematology. 

ACUTE ISSUES:
#bilateral PEs
#prothrombin gene mutation
Pt presented with pleuritic CP of two days and was found to have 
bilateral PEs on CTA. She had no evidence of right heart strain 
on bedside echo in the ED or on EKG, with negative trop x2 and 
BNP. She remained hemodynamically stable and off oxygen 
supplementation. Her PE was thought to have been in the setting 
of known prothrombin gene mutation, which carries higher risk of 
VTE. She was transitioned to rivaroxaban from heparin gtt. 
Follow up was scheduled with hematology and PCP. 

CHRONIC ISSUES:
#Corneal Erosions 
Continued hypertonic saline drops

TRANSITIONAL ISSUES:
[ ] Rivaroxaban loading dose 15mg BID for 21d (last day ___ 
after which should be continued on 20mg once daily.
[ ] follow up with hematology to discuss duration of 
anticoagulation was scheduled

# CODE: full (presumed) 
# CONTACT: Mother ___: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ 128 (sodium chloride) 2 % ophthalmic (eye) BID 
2. Vitamin D Dose is Unknown  PO DAILY 
3. Calcium Carbonate 500 mg PO Frequency is Unknown 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
with food  
2.  Calcium Carbonate 500 mg PO AS DIRECTED  
3.  Vitamin D 1000 UNIT PO DAILY  
4.  ___ 128 (sodium chloride) 2 % ophthalmic (eye) BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Pulmonary embolism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,  

___ was a pleasure caring for you during your admission to ___. 
Below you will find information regarding your stay.

WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted because you were having chest pain and were 
found to have bilateral pulmonary embolisms.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You were started on a heparin drip and then transitioned to 
Rivaroxaban  

WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take Rivaroxaban 15mg twice a day for 
21 days.
- You should follow up with your PCP and your hematology team. 

Thank you for letting us be a part of your care!  

Your ___ Care Team  
 
Followup Instructions:
___